US07378409B2
8-(2-Pyridinyl)-1,4-dioxaspiro[4.5]decan-8-ol (2.70 g) was dissolved in 1:1 THF/H2O (20 mL) then 3N HCl (10 mL) added. Refluxed for 2 hours then stirred overnight at room temperature. Worked up by slowly adding neat sodium bicarbonate until foaming ceased then extracted the mixture 3 times with ethyl acetate. The organic layers were combined, dried (sodium sulfate) and stripped to give an amber oil which solidified. The solids were dissolved in diethyl ether (10 mL). Hexanes (10 mL) were added which precipitated the solids which were then filtered to give 4-hydroxy-4-(pyridin-2-yl)cyclohexanone (680 mg) as a tan solid. MS found: (M+H)+=192.1.

reactant | 8-(2-Pyridinyl)-1,4-dioxaspiro[4.5]decan-8-ol | 2.70 g | N1=C(C=CC=C1)C1(CCC2(OCCO2)CC1)O | C13H17NO3
reactant | HCl | 3N, 10 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF H2O | 20 mL | C1CCOC1.O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 4-hydroxy-4-(pyridin-2-yl)cyclohexanone | 680 mg | OC1(CCC(CC1)=O)C1=NC=CC=C1 | C11H13NO2
